US06040433
To a solution of phenyl 6-deoxy-3,4-di-O-benzoyl-2-O-(4-methoxybenzyl)-1-thio-β-L-allopyranoside (β-13, prepared above) (400 mg, 0.7 mmol) in 10 mL of CH2Cl2 at -78° C. is added a solution of mCPBA (170 mg, 1.1 mmol) in 2 mL of CH2Cl2. The reaction mixture is allowed to warm to -20° C. and then quenched with TEA (500 μL, 3.59 mmol). The reaction mixture is diluted with 10 mL of CH2Cl2, washed with saturated NaHSO3 (10 mL), saturated NaHCO3 (10 nL), dried over Na2SO4, filtered and concentrated. The crude product is purified by flash chromatography (EtOAc/petroleum ether) to give 1,6-dideoxy-3,4-di-O-benzoyl-2-O-(4-methoxybenzyl)-1-(phenylsulfinyl)-β-L-allopyranose as a mixture of diastereomers.

reactant | phenyl 6-deoxy-3,4-di-O-benzoyl-2-O-(4-methoxybenzyl)-1-thio-β-L-allopyranoside | 0.7 mmol, 400 mg | C(C1=CC=CC=C1)(=O)O[C@@H]1[C@@H]([C@@H](SC2=CC=CC=C2)O[C@H]([C@@H]1OC(C1=CC=CC=C1)=O)C)OCC1=CC=C(C=C1)OC | C34H32O7S
reactant | mCPBA | 1.1 mmol, 170 mg | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 1,6-dideoxy-3,4-di-O-benzoyl-2-O-(4-methoxybenzyl)-1-(phenylsulfinyl)-β-L-allopyranose | C(C1=CC=CC=C1)(=O)O[C@@H]1[C@@H]([C@H](O[C@H]([C@@H]1OC(C1=CC=CC=C1)=O)C)S(=O)C1=CC=CC=C1)OCC1=CC=C(C=C1)OC | C34H32O8S
